US08975252B2
Zinc bromide (209 mg) was added to a solution of tert-butyl(2R)-2-{[{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate (a compound of Reference Example 128, 200 mg) in 1,2-dichloroethane (12 ml) and the mixture was stirred at 40° C. for 3 hours. The reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate and extracted with chloroform. The organic layer was washed with water and saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: chloroform/methanol=98/2 to 93/7) to give (2R)—N-{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}-N-cyclopropylmorpholin-2-carboxamide (117 mg) as a colorless oil.

reactant | tert-butyl(2R)-2-{[{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate | BrC=1C=C2C(=CN(C2=CC1)CCCOC)CN(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1 | C26H36BrN3O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 12 ml | ClCCCl | C2H4Cl2
catalyst | Zinc bromide | 209 mg | [Br-].[Zn+2].[Br-]
product | (2R)—N-{[5-bromo-1-(3-methoxypropyl)indol-3-yl]methyl}-N-cyclopropylmorpholin-2-carboxamide | 117 mg | BrC=1C=C2C(=CN(C2=CC1)CCCOC)CN(C(=O)[C@H]1CNCCO1)C1CC1 | C21H28BrN3O3
